US04030925
17. 1-[4-(2-Benzoylhydrazino)phenyl]-3-phenylthiourea (NA-15)
1-Benzoyl-2-(4-aminophenyl)hydrazine (1.14 g, 0.005 mole) and phenyl isothiocyanate (2.7 g, 0.02 mole) were mixed together and heated until contents became fluid. Gentle warming was continued for a few minutes and the reaction mixture was then chilled and diluted with ether. After some stirring and scratching, the product precipitated from solution. It was filtered off, washed thoroughly with ether and dried. Yield 1.7 g (94%), m.p. 149°-151° C.

reactant | 1-Benzoyl-2-(4-aminophenyl)hydrazine | 0.005 mole, 1.14 g | C(C1=CC=CC=C1)(=O)NNC1=CC=C(C=C1)N | C13H13N3O
reactant | phenyl isothiocyanate | 0.02 mole, 2.7 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | ether | CCOCC | C4H10O
product | 1-[4-(2-Benzoylhydrazino)phenyl]-3-phenylthiourea | C(C1=CC=CC=C1)(=O)NNC1=CC=C(C=C1)NC(=S)NC1=CC=CC=C1 | C20H18N4OS
